US08053456B2
A flask was charged with 5-(6-Ethyl-3,5-dimethoxy-pyridin-2-yl)-4-(1-methyl-1H-indol-5-yl)-4H-[1,2,4]triazole-3-thiol (30 mg; 0.08 mmol), and pyridine hydrochloride (2 g). The reaction was put under a nitrogen atmosphere, and heated to 220° C. for forty five minutes, and then cooled. To the flask was then added water (10 mL) and ethyl acetate (10 mL), and the contents were stirred until all solids were dissolved. The organic layer was isolated, washed with water, and all solvent was evaporated under vacuum with heating to give 2-ethyl-6-[5-mercapto-4-(1-methyl-1H-indol-5-yl)-4H-[1,2,4]triazol-3-yl]-pyridine-3,5-diol.

reactant | 5-(6-Ethyl-3,5-dimethoxy-pyridin-2-yl)-4-(1-methyl-1H-indol-5-yl)-4H-[1,2,4]triazole-3-thiol | 0.08 mmol, 30 mg | C(C)C1=C(C=C(C(=N1)C=1N(C(=NN1)S)C=1C=C2C=CN(C2=CC1)C)OC)OC | C20H21N5O2S
reactant | pyridine hydrochloride | 2 g | Cl.N1=CC=CC=C1
reactant | water | 10 mL | O | H2O
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 2-ethyl-6-[5-mercapto-4-(1-methyl-1H-indol-5-yl)-4H-[1,2,4]triazol-3-yl]-pyridine-3,5-diol | C(C)C1=NC(=C(C=C1O)O)C1=NN=C(N1C=1C=C2C=CN(C2=CC1)C)S | C18H17N5O2S
